US07935688B2
(2) Synthesis of 4-{1-ethyl-1-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenol
A [1,1′-bis(diphenylphosphino)ferrocene]palladium dichloride dichloromethane complex (0.39 g, 0.48 mmol), 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (1.59 g, 6.243 mmol) and potassium acetate (2.59 g, 26.413 mmol) were added to a solution of trifluoromethanesulfonic acid 4-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-2-methyl-phenyl ester (Example 1-(1); 2 g, 4.082 mmol) in dimethyl sulfoxide (2.4 mL) at room temperature, and the mixture was stirred at 80° C. for 16 hours. Ethyl acetate was added to the reaction solution. The organic layer was washed with distilled water and brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (n-hexane/ethyl acetate=9/1 to ethyl acetate only) to give the title compound (1.57 g, 82.9%).

reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 6.243 mmol, 1.59 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 26.413 mmol, 2.59 g | C(C)(=O)[O-].[K+]
reactant | trifluoromethanesulfonic acid 4-[1-ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-2-methyl-phenyl ester | 4.082 mmol, 2 g | C(C)C(CC)(C1=CC(=C(C=C1)O)C)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C20H23F3O4S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 2.4 mL | CS(=O)C | C2H6OS
product | 4-{1-ethyl-1-[3-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-propyl}-2-methyl-phenol | 1.57 g, 82.9% | C(C)C(CC)(C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C)C1=CC(=C(C=C1)O)C | C25H35BO3
